US08193246B2
Icosane-1,20-diol was synthesized according to Yoon et al., J. Org. Chem. 1973, 38(16), 2786-2792. Briefly, under N2 atmosphere to 25 g eicosanedioic acid 100 ml THF was added. Then 474.5 ml of borane/THF complex was added dropwise over 1.5 hours. The mixture was refluxed over night before 200 ml THF/H2O 1:1 were added dropwise. Under further stirring 100 g NaHCO3 dissolved in 250 ml H2O was added and two hours later 1000 ml H2O was added to the mixture and the precipitate was removed by filtration. At the next day and the day after next a white precipitate was removed by filtration from the mixture, dried and recrystallized from acetic acid ethyl ester. The product was characterized by thin layer chromatography and 1H-NMR.

reactant | eicosanedioic acid | 100 ml, 25 g | C(CCCCCCCCCCCCCCCCCCC(=O)O)(=O)O | C20H38O4
reactant | THF H2O | 200 ml | C1CCOC1.O
reactant | NaHCO3 | 100 g | C(=O)(O)[O-].[Na+]
solvent | H2O | 250 ml | O | H2O
solvent | H2O | 1000 ml | O | H2O
product | Icosane-1,20-diol | C(CCCCCCCCCCCCCCCCCCCO)O | C20H42O2
